US04066678
3-Trichlorogermylpropionic Acid
To a magnetically stirred solution of 18 g (0.1 mole) of trichlorogermane in 30 ml of anhydrous ether was added dropwise with a solution of 7.2g (0.1 mole) of acrylic acid in 20 ml of ether at -30°. Then, the mixture was allowed to stand at room temperature for 2 hrs. Evaporation of the solvent left a solid, which was recrystallized from n-hexane to give 22.5 g (89.3% yield) of white needles, mp 84°~85°. Lit. (V. F. Mironov, E. M. Berliner, and T. K. Gar, Zh. Obshch, Khim., 37, 962 (1967) reports mp 83°~85° for this compound.

reactant | trichlorogermane | 0.1 mole, 18 g | Cl[GeH](Cl)Cl | Cl3GeH
reactant | acrylic acid | 0.1 mole, 7.2g | C(C=C)(=O)O | C3H4O2
solvent | ether | 30 ml | CCOCC | C4H10O
solvent | ether | 20 ml | CCOCC | C4H10O
product | 3-Trichlorogermylpropionic Acid | 22.5 g, 89.3% yield | Cl[Ge](CCC(=O)O)(Cl)Cl | C3H5Cl3GeO2
